US04707488
C: 3-(3,5-Difluorophenyl)propanoic acid
A solution of 3-(3,5-difluorophenyl)propenoic acid (0.0435 mol) in tetrahydrofuran (100 ml) and a slurry of 10% palladium on carbon (1.5 g) in ethyl acetate were shaken together under 50 psi hydrogen for 4 hours. The mixture was filtered and concentrated to yield 8 g (99%) of a yellow oil.

reactant | 3-(3,5-difluorophenyl)propenoic acid | 0.0435 mol | FC=1C=C(C=C(C1)F)C=CC(=O)O | C9H6F2O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-Difluorophenyl)propanoic acid | 8 g, 99% | FC=1C=C(C=C(C1)F)CCC(=O)O | C9H8F2O2
